US06440982B1
5-Amino-2-methyl-1-n-propylimidazole-4-carboxamide
A mixture of 2-amino-2-cyanoacetamide (prepared as described in WO 94/00453; 3.6 g, 36.4 mmol) and ethyl acetimidate hydrochloride (4.50 g, 36.4 mmol) in acetonitrile (85 mL) was stirred at 50° C. for an hour, then cooled to 0° C., and stirred for a further hour. The reaction mixture was filtered, and n-propylamine (3.02 mL, 36.4 mmol) added. The solution was stirred at room temperature for an hour, and left to stand for a further 16 hours. The resulting precipitate was filtered, washed with acetonitrile, then dichloromethane and dried under vacuum to afford the title compound as a solid (3.0 g, 45%).

reactant | 2-amino-2-cyanoacetamide | 36.4 mmol, 3.6 g | NC(C(=O)N)C#N | C3H5N3O
reactant | ethyl acetimidate hydrochloride | 36.4 mmol, 4.50 g | Cl.C(C)(OCC)=N
reactant | n-propylamine | 36.4 mmol, 3.02 mL | C(CC)N | C3H9N
solvent | acetonitrile | 85 mL | C(C)#N | C2H3N
product | 5-Amino-2-methyl-1-n-propylimidazole-4-carboxamide | 3.0 g, 45% | NC1=C(N=C(N1CCC)C)C(=O)N | C8H14N4O
